US07414061B2
5-Methyl-3-phenyl-4-[1-(3-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 3-(trifluoromethyl)phenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (55 mg, 30%) which was obtained as a white solid. MS (ESI): m/e=370.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 3-(trifluoromethyl)phenylboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 5-Methyl-3-phenyl-4-[1-(3-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole | 55 mg, 30% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC(=CC=C1)C(F)(F)F | C20H14F3N3O
